US04394506
N-[(4-Methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-carboxybenzenesulfonamide
4.0 g of N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide was dissolved in a mixture of 20 ml of absolute ethanol, 2.5 ml of water and 2.5 g of potassium hydroxide. After stirring at 25° for 24 hours the mixture had become a semi-solid mass. Enough cold water was added to dissolve the solid and the solution was acidified to pH 3 with concentrated hydrochloric acid. The resultant precipitate was isolated by filtration and washed with cold water. The precipitate was dried to afford 3.7 g of the title compound, melting at 195°-200°. The nuclear magnetic resonance spectrum exhibited resonances for the methyl and methoxy substituents on the pyrimidine ring at 2.67 ppm and 4.20 ppm respectively.

reactant | N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide | 4.0 g | COC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC | C15H16N4O6S
reactant | potassium hydroxide | 2.5 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 2.5 ml | O | H2O
product | N-[(4-Methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-carboxybenzenesulfonamide | COC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)O | C14H14N4O6S
